US07378417B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-isopropylsulfamoyl-phenyl)-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) and 3-amino-N-isopropyl-benzenesulfonamide [CAS 118837-66-4] according to general procedure II. Yellow solid. MS (ISP) 570.2 [(M−H)−]; mp 222° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 3-amino-N-isopropyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC(C)C | C9H14N2O2S
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-isopropylsulfamoyl-phenyl)-amide | C(C)(C)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C24H19F6N5O3S
